US07888344B2
2-Bromo-5-isopropylcyclohexane-1,3-dione
To a stirred solution of 5-isopropylcyclohexane-1,3-dione (2 g, 12.9 mmol) in AcOH (20 mL) at r.t. was added bromine (2.06 g, 0.66 mL, 12.9 mmol) dropwise. The reaction was then carried out according to Method A to give the title compound (2.91 g, 96%) as a white solid. δH (DMSO-d6) 2.55-2.48 (4H, m), 2.38-2.32 (1H, m), 1.91-1.82 (1H, m), 1.79-1.54 (1H, m), 0.87 (6H, d, J 6.7 Hz). LCMS (ES+) 234.9 (M+H)+.

reactant | 5-isopropylcyclohexane-1,3-dione | 12.9 mmol, 2 g | C(C)(C)C1CC(CC(C1)=O)=O | C9H14O2
reactant | bromine | 12.9 mmol, 0.66 mL, 2.06 g | BrBr | Br2
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 2-Bromo-5-isopropylcyclohexane-1,3-dione | 2.91 g, 96% | BrC1C(CC(CC1=O)C(C)C)=O | C9H13BrO2
